US06326369B1
Ethyl 8-(2-ethoxycarbonyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanoate
A water (1 ml) solution of CAN (342 mg, 0.624 mmols) was dropwise added to an acetonitrile (2 ml) solution of ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate (100 mg, 0.208 mmols), with cooling with ice. The reaction mixture was stirred for 15 minutes and water was added thereto, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried. The solvent was evaporated in vacuo, and the resulting crude product was purified by silica gel column chromatography (hexane only to hexane:ethyl acetate=4:1) to obtain the entitled compound (69 mg) as an oil.

reactant | CAN | 0.624 mmols, 342 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate | 0.208 mmols, 100 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)OCC | C26H40O8
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | Ethyl 8-(2-ethoxycarbonyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanoate | 69 mg | C(C)OC(=O)C1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)CCCCCCCC(=O)OCC | C24H34O8
